US04000277
3-Ethyl-3,11-dihydro-6H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]-pyrido[4,3-d]pyrimidin-6-one
126 g. of 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.5 mol.), 41.5 g. of 5-amino-pyrazole (0.5 mol.) and 50.6 g. of triethylamine (0.5 mol.) are heated at reflux temperature with stirring in 250 ml. of dimethylformamide for 16 hours. After cooling, about 300 ml. of water are added and the white precipitated product, 3-ethyl-3,11-dihydro-6H-pyrazolo[1,5-a]pyrazolo-[4',3':5,6]pyrido[4,3-d]pyrimidin-6-one is filtered off, yield 57.7 g. (45.4%); m.p. >300° (DMF).

reactant | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.5 mol | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)Cl | C11H12ClN3O2
reactant | 5-amino-pyrazole | 0.5 mol | NC1=CC=NN1 | C3H5N3
reactant | triethylamine | 0.5 mol | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-Ethyl-3,11-dihydro-6H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]-pyrido[4,3-d]pyrimidin-6-one | C(C)N1N=CC2=C1N=CC1=C2NC=2N(C1=O)N=CC2 | C12H10N6O
